US05977178
A solution of oxalyl chloride (1.81 ml, 20.8 mmol) in dichloromethane (180 ml) was cooled to -78° C. A solution of dimethylsulfoxide (2.15 ml, 27.8 mmol) in dichloromethane (2 ml) was added dropwise. The solution was stirred for 15 min at -78° C. A solution of N-((1R)-1-(hydroxymethyl)-2-(2-thienyl)ethyl)-N-methylcarbamic acid tert-butyl ester (3.78 g, 13.9 mmol) in dichloromethane (10 ml) was added dropwise. The solution was stirred for 20 min at -78° C. Triethylamine (7.71 ml, 55.6 mmol) was added. The solution was stirred for 5 min at -78° C. and warmed to -35° C. As soon as -35° C. was reached it was cooled to -78° C. Acetic acid (3.50 ml, 61.2 mmol) was added. The solution was warmed to room temperature and was washed with brine (200 ml). The organic phase was dried over magnesium sulfate. The solvent was removed in vacuo. The residue was dissolved in methanol (180 ml). 4 Å mol (20 g) sieves was added. Acetic acid (5.5 ml, 97.3 mmol) was added. An 8.0M solution of methylamine in ethanol (5.2 ml, 41.7 mmol) was added. Solid sodium cyano borohydride (0.57 g, 9.1 mmol) was added. The solution was stirred at room temperature for 1 h, before another portion of solid sodium cyano borohydride (0.57 g, 9.1 mmol) was added. The reaction mixture was stirred for 16 h at room temperature and filtered through a plug of celite. The celite was washed with methanol (150 ml). The solvent of the filtrate was removed in vacuo. The residue was dissolved in 1N sodium hydroxide solution (200 ml). The solution was extracted with tert-butyl methyl ether (3×100 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (150 g), using dichloromethane/methanol/25% aqueous ammonia 100:10:1 as eluent, to give 1.72 g of N-methyl-N-((1R)-2-methylamino-1-((2-thienyl)methyl)ethyl)carbamic acid tert-butyl ester.

reactant | oxalyl chloride | 20.8 mmol, 1.81 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 27.8 mmol, 2.15 ml | CS(=O)C | C2H6OS
reactant | N-((1R)-1-(hydroxymethyl)-2-(2-thienyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 13.9 mmol, 3.78 g | C(C)(C)(C)OC(N(C)[C@H](CC=1SC=CC1)CO)=O | C13H21NO3S
reactant | Triethylamine | 55.6 mmol, 7.71 ml | C(C)N(CC)CC | C6H15N
reactant | Acetic acid | 61.2 mmol, 3.50 ml | C(C)(=O)O | C2H4O2
reactant | Acetic acid | 97.3 mmol, 5.5 ml | C(C)(=O)O | C2H4O2
reactant | methylamine | CN | CH5N
reactant | ethanol | 41.7 mmol, 5.2 ml | C(C)O | C2H6O
reactant | sodium cyano borohydride | 9.1 mmol, 0.57 g | C(#N)[BH3-].[Na+]
reactant | sodium cyano borohydride | 9.1 mmol, 0.57 g | C(#N)[BH3-].[Na+]
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-methyl-N-((1R)-2-methylamino-1-((2-thienyl)methyl)ethyl)carbamic acid tert-butyl ester | 1.72 g | C(C)(C)(C)OC(N([C@@H](CNC)CC=1SC=CC1)C)=O | C14H24N2O2S
